US05563162
To a solution of 8-tert-butoxycarbonylamino-2-methylquinoline (258 mg) in N,N-dimethylformamide (3 ml) was added sodium hydride (44 mg) in an ice-water bath cooling, and the mixture was stirred for 20 minutes at the same temperature. To the reaction mixture was added 2,6-dichloro-3-nitrobenzyl methanesulfonate (300 mg) in an ice water bath cooling, and the mixture was stirred for 80 minutes at the same temperature and then for 15 minutes at ambient temperature. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography eluting with methylene chloride, and crystallized with n-hexane to give 8-[N-tert-butoxycarbonyl-N-(2,6-dichloro-3-nitrobenzyl)amino]-2-methylquinoline (352 mg).

reactant | 8-tert-butoxycarbonylamino-2-methylquinoline | 258 mg | C(C)(C)(C)OC(=O)NC=1C=CC=C2C=CC(=NC12)C | C15H18N2O2
reactant | sodium hydride | 44 mg | [H-].[Na+]
reactant | 2,6-dichloro-3-nitrobenzyl methanesulfonate | 300 mg | CS(=O)(=O)OCC1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C8H7Cl2NO5S
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 8-[N-tert-butoxycarbonyl-N-(2,6-dichloro-3-nitrobenzyl)amino]-2-methylquinoline | 352 mg | C(C)(C)(C)OC(=O)N(CC1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl)C=1C=CC=C2C=CC(=NC12)C | C22H21Cl2N3O4
